US07737166B2
tert-Butyl N-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-β-alaninate (I-279)
(3S)-3-(dimethylamino)pyrrolidine (161 μl, 1.27 mmol) and triethylamine (177 μl, 1.27 mmol) were added to a dimethyl sulfoxide (9 ml) solution of tert-butyl N-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-β-alaninate (I-278) (335 mg, 0.847 mmol), followed by stirring in an oil bath at 150° C. for 5 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in ethyl acetate and washed with water and saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, the residue obtained by concentration was purified by silica gel column chromatography (eluent, chloroform:methanol=20:1, v/v) to obtain the entitled compound (120 mg, 29%) as a brown oily substance.

reactant | (3S)-3-(dimethylamino)pyrrolidine | 1.27 mmol, 161 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | triethylamine | 1.27 mmol, 177 μl | C(C)N(CC)CC | C6H15N
reactant | tert-butyl N-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-β-alaninate | 0.847 mmol, 335 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)NCCC(=O)OC(C)(C)C)F)C2=CC=CC=C2)C | C22H22FN3O3
solvent | dimethyl sulfoxide | 9 ml | CS(=O)C | C2H6OS
product | tert-Butyl N-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)-β-alaninate | 120 mg, 29% | C(#N)C1=C(C(=C(C2=C1N=C(O2)NCCC(=O)OC(C)(C)C)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C28H35N5O3
